Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
naproxen
 
Attending: ___.
 
Chief Complaint:
IVC thrombus
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ female with a history of polycythemia
___ c/b IJ thrombosis, managed with phlebotomy, migraines, PFO
presented as a transfer from OSH for evaluation of a IVC 
thrombus
and PE.

Patient presented to an outside hospital today with right flank
pain since ___. While there, she underwent a CT scan which
was notable for a 3.7 cm long and 1.4 cm wide thrombus in the 
IVC
extending into the right renal vein with partial outflow
obstruction. Furthermore, a CT angiogram of the chest showed
multiple subsegmental PEs as well as evidence of cardiomegaly.
She did endorse a headache with some b/l facial numbness, so
underwent a NCHCT without acute intracranial process. She was
then transferred to ___ for evaluation.

Of note, patient has a history of polycythemia ___ which is
controlled intermittent therapeutic blood draws and a baby
aspirin. Her course has been complicated by a IJ thrombus in
___, for which she was on Pradaxa.

- In the ED, initial vitals were:
T 98.3 HR 70 BP 131/87 RR 16 O2 99% RA 

- Exam was notable for:
"Noncontributory"

- Labs were notable for:
140  104  6   
-------------<99 
4.6  24  0.6  

     10.3
10.0>----<467 
     41.6  
 
proBNP: 259

- Studies were notable for:
RUQUS- 2.3 cm thrombus in the inferior vena cava.  

CT HEAD- No acute infarction, intracranial hemorrhage, mass
lesion, or midline shift.

CT ANGIOGRAM ABDOMEN PELVIS W WO CONTRAST-
 
Impression 
1.  Small pulmonary emboli in the right anterior and posterior
basal segmental arteries.
2.  Inferior vena cava thrombus measuring up to 3.7 cm in
craniocaudal dimension with extension into the right renal vein
with associated hypoattenuation of the right renal pelvis,
secondary to probable partial venous outflow obstruction.
3.  Cardiomegaly. 

- The patient was given:
___ 01:58 IV Heparin 

- Vascular was consulted who recommended.
 - hep gtt, goal PTT ___
 - monitor for ___, currently no renal dysfunction
 - heme/onc consult for management of her PV, currently only on
baby ASA
 - likely will need medical admission to the hospital
 - No vascular surgery intervention at this time

On arrival to the floor, the patient confirms the history as
above. Her last phlebotomy was 8 week ago. She said her flank
pain had improved after receiving pain medications. She denies
any current head ache, facial numbness, paresthesias, or changes
in vision  

 
Past Medical History:
OSA
Polycythemia ___ (JAK2) positive, managed with phlebotomy 
HX of Thrombosis of the distal R transverse sinus extending into
the sigmoid sinus and the proximal R internal jugular vein.
 
Social History:
___
Family History:
Mother- diabetes, hypertension, stroke, dementia 
Maternal Grandmother- dementia
___ uncle with PV

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 98.6 PO 142 / 92 82 18 95 Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: Sclera anicteric and without injection.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales.
BACK: No CVA tenderness.
ABDOMEN: Non-distended, no TTP in RUQUS
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: Warm.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. fluent speak

DISCHARGE PHYSICAL EXAM:
========================
GENERAL: Alert and interactive. In no acute distress.
HEENT: Sclera anicteric and without injection.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales.
ABDOMEN: Non-distended, no TTP in RUQUS
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: Warm.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. fluent speak

 
Pertinent Results:
___ 06:49AM BLOOD ___ PTT-58.6* ___
___ 12:53PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-Test    
  
___ 12:53PM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-Test      
___ 02:00PM URINE Hours-RANDOM Creat-50 TotProt-45 
Prot/Cr-0.9*
___ 06:49AM BLOOD Glucose-92 UreaN-8 Creat-0.7 Na-143 K-4.8 
Cl-103 HCO3-25 AnGap-15

bilateral LENIs
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

 
Brief Hospital Course:
Ms. ___ is a ___ YO female with a hx of PV c/b previous
transverse sinus thrombosis managed with therapeutic phlebotomy,
presenting as a transfer from OSH for evaluation and management
of IVC thrombus and PEs. She was placed on a heparin gtt and 
converted to warfarin with lovenox bridge.

ACUTE/ACTIVE ISSUES:
====================
#IVC thrombus
#PE
#Polycythemia ___
#renal vein thrombosis
Patient presenting with significant clot burden which seems to 
have originated from reanl vein and extended to IVC w PEs. No 
other predisposing factor aside from PV known. Started on 
heparin gtt, transitioned to lovenox bridge + warfarin. Vascular 
surgery eval w no need for surgical intervention. Renal eval 
given proteinuria, who felt likely proteinuria a result of 
thrombosis. Recommended SPEP/UPEP as outpatient. APLS w/u sent, 
pending at time of d/c. LENIs negative.

TRANSITIONAL ISSUES:
====================
[] Hematology team recommends treatment of polycythemia ___ 
with hydroxyurea over intermittent phlebotomy
[] Recommend age appropriate screening as malignancy may 
increase risk for clot
[] Will be discharged on ___ bridge to warfarin.
----Next INR to be checked ___. Confirmed this will be followed 
by Dr. ___
[] Please send SPEP/UPEP and monitor renal function and urine 
protein creatinine ratio. If worsening recommend referral to 
nephrology
[] Please follow up pending anticardiolipin ab and 
beta-2-microlobulin ab sent as part of thrombophilia workup

More than 30 minutes were spent preparing this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Vitamin D ___ UNIT PO DAILY 
3. Calcium Carbonate Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Enoxaparin Sodium 80 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 80 mg/0.8 mL 80 mg SC every twelve (12) hours 
Disp #*14 Syringe Refills:*1 
2.  Warfarin 5 mg PO DAILY16 
RX *warfarin 2.5 mg 2 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0 
3.  Calcium Carbonate 500 mg PO QHS:PRN vitamin  
4.  Vitamin D ___ UNIT PO DAILY  
5.Outpatient Lab Work
I___.220
___, INR
Results to:
Name: ___. 
Phone: ___ 
Fax: ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
deep vein thrombosis
pulmonary embolism
renal vein thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your stay at ___.

WHY WAS I HERE?
-You had a large blood clot

WHAT WAS DONE WHILE I WAS IN THE HOSPITAL?
-You were given blood thinners and seen by the kidney doctors 
and ___

WHAT SHOULD I DO WHEN I GO HOME?
-You should see your PCP and get your INR checked
-You should see your hematologist.
-You should talk to your doctor about having a mammogram, 
colonoscopy, and pap smear if needed.

Be well!

Your ___ Care Team
 
Followup Instructions:
___